US04927958
A solution of 21.5 g (131 mmol) of (E)-4-(4-fluorophenyl-but-3-en-2-one and 12 g (131 mmol) of glyoxylic acid monohydrate in 32 ml of acetic acid was heated at reflux for 20 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic phase was extracted twice with 3N sodium hydroxide solution. The combined aqueous phases were treated with 3N hydrochloric acid to produce a strongly acidic reaction and extracted twice with ethyl acetate. The combined organic phases were dried over magnesium sulphate and concentrated. Crystallization of the residue from ethyl acetate/ether yielded (E,E)-6-(4-fluorophenyl)-4-oxo-2,5-hexadienoic acid of melting point 160°-162°.

reactant | 4-fluorophenyl-but-3-en-2-one | FC1=CC=C(C=C1)CC(C=C)=O | C10H9FO
reactant | glyoxylic acid monohydrate | 131 mmol, 12 g | O.C(C=O)(=O)O
solvent | acetic acid | 32 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | (E,E)-6-(4-fluorophenyl)-4-oxo-2,5-hexadienoic acid | FC1=CC=C(C=C1)/C=C/C(/C=C/C(=O)O)=O | C12H9FO3
